* C:\Users\16474\Desktop\thesis\nvidia.asc
V1 Dataa 0 PWL file=prbs7_a.txt
Rs Vpada Vdrva 22.5
Rh1 Vpada Vina 190
Rh2 Vina Vrepa 250
Rch N006 Vpada 21.5
T1 N006 0 N007 0 Td=8p Z0=40
M2 Vouta Vina 0 0 NMOS
VDD N016 0 0.75
Rf Vina Vouta 1.2k
M5 N005 N003 0 0 NMOS
M6 N013 Dataa 0 0 NMOS
V2 N001 0 0.75
V3 N010 0 0.75
Rdrv Vdrva N005 22.5
Rrep Vrepa N013 124
M7 N012 NC_01 N018 N018 PMOS
M8 N018 NC_02 0 0 NMOS
V4 N012 0 0.75
V5 Datab 0 PWL file=prbs7_b.txt
Rs1 N008 Vdrvb 22.5
Rh3 N008 Vinb 190
Rh4 Vinb Vrepb 250
Rch1 N007 N008 21.5
M10 Voutb Vinb 0 0 NMOS
VDD1 N017 0 0.75
Rf1 Vinb Voutb 1.2k
M13 N009 N004 0 0 NMOS
M14 N014 Datab 0 0 NMOS
V6 N002 0 0.75
V7 N011 0 0.75
Rdrv1 Vdrvb N009 22.5
Rrep1 Vrepb N014 124
M15 N015 NC_03 N019 N019 PMOS
M16 N019 NC_04 0 0 NMOS
V8 N015 0 0.75
M3 N005 N003 N001 N001 PMOS
M4 N013 Dataa N010 N010 PMOS
M11 N009 N004 N002 N002 PMOS
M12 N014 Datab N011 N011 PMOS
M1 Voutb Vinb N017 N017 PMOS
M9 Vouta Vina N016 N016 PMOS
A3 Dataa 0 0 0 0 N003 0 0 BUF .param Vhigh=0.75 Vlow=0
A1 Datab 0 0 0 0 N004 0 0 BUF .param Vhigh=0.75 Vlow=0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\16474\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2540p
.backanno
.end
